US05145937
Suberoyl chloride (40.8 g, 0.1933 mol) was added over a 30-45 minute period to a mechanically stirred suspension of aluminum chloride (64.4 g, 0.483 mol) in fluorobenzene (181 ml, 1.93 mol) maintained at 5°-10° C. The yellow slurry was allowed to warm to room temperature and was stirred overnight. The reaction mixture was poured onto approximately 1000 g of ice containing 75 ml of concentrated hydrochloric acid. The resulting suspension was separated by decantation and washed several times with water. The organic layer was distilled to remove excess fluorobenzene and the solid residue collected by filtration, washed with water, and dried at 100° C. The crude solid was recrystallized from approximately 500 ml of toluene to afford 43.0 g (67% yield) of 1,6-bis(4-fluorobenzoyl)hexane; mp 123°-124° C.; 'H NMR (CDCl3) δ1.0-2.1 (m, 8H, CH2), 2.97 (t, 4H, O=CCH2, J=7.0 Hz), 6.9-8.3 (m, 8H, aromatic). Anal. Calcd. for C20H20F2O2 : C, 72.71%; H, 6.10%; F, 11.50%. Found: C, 72.50%; H, 5.86%; F, 11.19%.

reactant | Suberoyl chloride | 0.1933 mol, 40.8 g | C(CCCCCCC(=O)Cl)(=O)Cl | C8H12Cl2O2
reactant | aluminum chloride | 0.483 mol, 64.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 1.93 mol, 181 ml | FC1=CC=CC=C1 | C6H5F
reactant | hydrochloric acid | Cl | ClH
product | 1,6-bis(4-fluorobenzoyl)hexane | 43.0 g, 67% yield | FC1=CC=C(C(=O)CCCCCCC(C2=CC=C(C=C2)F)=O)C=C1 | C20H20F2O2
